US07193023B2
Synthesis of 2-Tetrahydrofuranyl methacrylate (THFMA)
To a 500-mL, 3-necked round bottomed flask equipped with a thermocouple temperature monitor, nitrogen inlet and a magnetic stirrer was added 300 mL of dichloromethane, 24.5 g (0.29 mol) of methacrylic acid and 21.4 g (0.305 mol) of 2,3-dihydrofuran. The flask was cooled under Nitrogen to −40° C. and 0.05 g of methanesulfonic acid was added. The mixture was warmed to 0° C. and stirred for 6 hours at which time it was recooled to −40° C. and an excess (1 mL) of triethylamine was added. The solution was then washed with saturated sodium bicarbonate, water and brine and dried over anhydrous magnesium sulfate. Distillation from sodium carbonate at reduced pressure resulted in 26 g (58%) of the title compound.

reactant | dichloromethane | 300 mL | ClCCl | CH2Cl2
reactant | methacrylic acid | 0.29 mol, 24.5 g | C(C(=C)C)(=O)O | C4H6O2
reactant | 2,3-dihydrofuran | 0.305 mol, 21.4 g | O1CCC=C1 | C4H6O
catalyst | methanesulfonic acid | 0.05 g | CS(=O)(=O)O | CH4O3S
solvent | triethylamine | 1 mL | C(C)N(CC)CC | C6H15N
product | 2-Tetrahydrofuranyl methacrylate | 26 g, 58% | C(C(=C)C)(=O)OC1OCCC1 | C8H12O3
